US07423035B2
4-{2-[1-(2,6-dimethyl-benzyl)-cyclopropylamino]-1-hydroxy-ethyl}-2-hydroxymethyl-phenol
Prepared according to general method 5 from 344 mg (1 mmol) methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate and 175 mg (1 mmol) 1-(2,6-dimethyl-benzyl)-cyclopropylamine. Yield: 64 mg (14%, trifluoroacetate); mass spectroscopy: [M+H]+=342.

reactant | methyl 2-benzyloxy-5-(2-ethoxy-2-hydroxy-acetyl)-benzoate | 1 mmol, 344 mg | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(C(O)OCC)=O | C19H20O6
reactant | 1-(2,6-dimethyl-benzyl)-cyclopropylamine | 1 mmol, 175 mg | CC1=C(CC2(CC2)N)C(=CC=C1)C | C12H17N
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 4-{2-[1-(2,6-dimethyl-benzyl)-cyclopropylamino]-1-hydroxy-ethyl}-2-hydroxymethyl-phenol | CC1=C(CC2(CC2)NCC(O)C2=CC(=C(C=C2)O)CO)C(=CC=C1)C | C21H27NO3
